US07405220B2
(2,4-Dichloro-pyrimidin-5-yl)-phenyl-methanol
The compound was prepared from 5-bromo-2,4-dichloropyrimidine (Aldrich) and benzaldehyde (Aldrich) in 79% yield in an analogous manner as described in Example 1. 1H NMR (300 MHz, CDCl3) δ 8.91 (s, 1H), 7.36 (m, 5H), 6.06 (d, 1H, J=3.0 Hz), 2.48 (br m,1H).

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (2,4-Dichloro-pyrimidin-5-yl)-phenyl-methanol | 79% yield | ClC1=NC=C(C(=N1)Cl)C(O)C1=CC=CC=C1 | C11H8Cl2N2O
